US08357711B2
4-[(1,2,4-Thiadiazol-5-ylamino)sulfonyl]benzoic acid
To a solution of 5-amino-1,2,4-thiadiazole (58 mg, 0.574 mmol, 1.1 eq) in THF (5 ml) was added, 1,1,3,3,3-Hexanemethyldisilazane lithium salt (LiHMDS, 1M in THF, 1.15 ml, 1.2 mmol, 2.2 eq) and the reaction mixture stirred at 50° C. for 5 minutes. Methyl 4-[(pentafluorophenoxy)sulfonyl]benzoate (Preparation 28, 196 mg, 0.513 mmol, 1 eq) was added and the reaction monitored. On the disappearance of the starting materials the reaction mixture was quenched with water (5 ml), diluted with ethyl acetate (10 ml), washed with saturated sodium hydrogen carbonate, dried over sodium sulphate, filtered and evaporated in vacuo. The residue was dissolved in dioxane (5 ml) and a solution of sodium hydroxide (100 mg, 2.5 mmol, 4.3 eq) in water (2 ml) was added and the reaction mixture stirred at room temperature for 30 minutes. The reaction mixture was partitioned between ethyl acetate (5 ml) and water (5 ml), the aqueous phase was acidified with concentrated HCl, extracted into ethyl acetate (10 ml), dried over sodium sulphate, filtered and evaporated in vacuo. The crude material was triturated with DCM to yield the title compound as a pale yellow solid (64 mg, 0.22 mmol, 43%).

reactant | 5-amino-1,2,4-thiadiazole | 0.574 mmol, 58 mg, 1.1 eq | NC1=NC=NS1 | C2H3N3S
reactant | lithium | 1.2 mmol, 1M, 1.15 ml, 2.2 eq | [Li] | Li
reactant | Methyl 4-[(pentafluorophenoxy)sulfonyl]benzoate | 0.513 mmol, 196 mg, 1 eq | FC1=C(C(=C(C(=C1OS(=O)(=O)C1=CC=C(C(=O)OC)C=C1)F)F)F)F | C14H7F5O5S
reactant | sodium hydroxide | 2.5 mmol, 100 mg, 4.3 eq | [OH-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 4-[(1,2,4-Thiadiazol-5-ylamino)sulfonyl]benzoic acid | 0.22 mmol, 64 mg, 43% | S1N=CN=C1NS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C9H7N3O4S2
